US08609692B2
1-(methoxymethoxy)-2-(trifluoromethoxy)benzene
A solution of 2-(trifluoromethyloxy)phenol (12.0 g, 67.4 mmol) in dichloromethane (45 mL) was cooled to 5° C., and N,N-diisopropylethylamine (23.5 mL, 135 mmol) and methoxymethyl chloride (7.68 mL, 135 mmol) were added dropwise, keeping the internal temperature ≦15° C. The reaction mixture was warmed to ambient temperature, stirred for 15 min at ambient temperature, then diluted with MTBE (250 mL) and washed with 2N HCl (2×50 mL), water (50 mL), 2N NaOH (2×30 mL), water (30 mL), and brine (30 mL). The organic portion was dried (Na2SO4), filtered, and concentrated to give the title compound (13.9 g, 62.6 mmol, 93%) which was used without further purification. MS (DCI/NH3) m/z 222 (M+H)+.

reactant | 2-(trifluoromethyloxy)phenol | 67.4 mmol, 12.0 g | FC(OC1=C(C=CC=C1)O)(F)F | C7H5F3O2
reactant | N,N-diisopropylethylamine | 135 mmol, 23.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methoxymethyl chloride | 135 mmol, 7.68 mL | COCCl | C2H5ClO
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | MTBE | 250 mL | CC(C)(C)OC | C5H12O
product | 1-(methoxymethoxy)-2-(trifluoromethoxy)benzene | 62.6 mmol, 13.9 g, 93% | COCOC1=C(C=CC=C1)OC(F)(F)F | C9H9F3O3
